US08097720B2
7,8-Dimethoxy-3-[3-(methylamino)propyl]-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
Dissolve 50 g (0.18 mol) of 3-(7,8-dimethoxy-2-oxo-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)propanal in 625 ml of methanol. Cool the resulting solution to 0° C. and then add 62.5 ml (0.81 mol; 4.5 equivalents) of an aqueous 40% methylamine solution. Stir for one hour at 0° C. and then add 7.5 g (0.2 mol; 1.1 equivalent) of NaBH4. Stir for 30 minutes at 0° C. and then stir for 12 hours at ambient temperature. Evaporate off the methanol. The residue is taken up in aqueous hydrochloric acid solution (1N), and washed with ethyl acetate. The aqueous phase is then adjusted to pH=8 by adding 20% sodium hydroxide solution and extracted with dichloromethane. The organic phase is washed with water, dried over MgSO4, filtered and then evaporated to dryness to obtain 52 g of an oil, which is purified by flash chromatography on 1.5 kg of silica (eluant=dichloromethane/−ethanol/NH4OH:80/20/2). 42 g of the expected product are obtained in the form of a white solid.

reactant | 3-(7,8-dimethoxy-2-oxo-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)propanal | 0.18 mol, 50 g | COC1=CC2=C(CC(N(CC2)CCC=O)=O)C=C1OC | C15H19NO4
reactant | methylamine | CN | CH5N
reactant | NaBH4 | 0.2 mol, 7.5 g, 1.1 equivalent | [BH4-].[Na+]
solvent | methanol | 625 ml | CO | CH4O
product | 7,8-Dimethoxy-3-[3-(methylamino)propyl]-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 52 g, Yield=80% | COC1=CC2=C(CC(N(CC2)CCCNC)=O)C=C1OC | C16H24N2O3
